US07687502B2
(5-Methyl-pyrazin-2-yl)-[6-(4-methyl-4H-[1,2,4]-triazol-3-ylsulfanyl)-quinazolin-4-yl]-amine
The compound of Example 19 was manufactured by the same method as in Example 1, by a similar method thereto or by a combination of such a method with a conventional method using 4-chloro-6-iodo-quinazoline, 2-amino-5-methylpyrazine and 3-mercapto-4-methyl-1,2,4-triazole.

reactant | 4-chloro-6-iodo-quinazoline | ClC1=NC=NC2=CC=C(C=C12)I | C8H4ClIN2
reactant | 2-amino-5-methylpyrazine | NC1=NC=C(N=C1)C | C5H7N3
reactant | 3-mercapto-4-methyl-1,2,4-triazole | SC1=NN=CN1C | C3H5N3S
product | (5-Methyl-pyrazin-2-yl)-[6-(4-methyl-4H-[1,2,4]-triazol-3-ylsulfanyl)-quinazolin-4-yl]-amine | CC=1N=CC(=NC1)NC1=NC=NC2=CC=C(C=C12)SC1=NN=CN1C | C16H14N8S
